US05102890
Working as in Example 1, but starting with 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone (9.9 g) in anhydrous dimethylformamide (100 cc), 1methyl-4-piperidinecarboxylic acid hydrochloride (5.4 g) and 1,8-diazabicyclo[5.4.0]undec-7-ene (10.7g), and after the residue obtained has been recrystallized twice successively in ethanol and then in acetonitrile, 2-(7-chloro-1,8-naphthyridin-2-yl)-1-oxo-3-isoindolinyl 1-methyl-4-piperidinecarboxylate (5.6 g), m.p. 136° C. and then 157° C., is obtained.

reactant | 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone | 9.9 g | ClC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C16H9Cl2N3O
reactant | 1methyl-4-piperidinecarboxylic acid hydrochloride | 5.4 g | Cl.CN1CCC(CC1)C(=O)O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 10.7g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | dimethylformamide | 100 cc | CN(C=O)C | C3H7NO
product | 2-(7-chloro-1,8-naphthyridin-2-yl)-1-oxo-3-isoindolinyl 1-methyl-4-piperidinecarboxylate | 5.6 g | CN1CCC(CC1)C(=O)OC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C23H21ClN4O3
